US07915271B2
(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (103 mg, 0.172 mmol, in 515 μL toluene), methyl 4′-chloro-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate (100 mg, 0.259 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (14 mg, 10%), aqueous potassium carbonate (344 μL, 2M, 0.688 mmol), and ethanol (2 mL) were sealed in a microwave vessel. The reaction mixture was irradiated by microwave at 140° C. for 45 minutes. LC/MS analysis indicated complete consumption of starting material. Crude material was purified by SiO2 (Prep-TLC 30% EtOAc/hex) to afford a yellow residue. The residue was further purified by a preparative reverse phase HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting w/a MeCN (0.1% TFA, v/v)/H2O (0-1% TFA, v/v) gradient mixture affording methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-chloro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate. LCMS calc.=729.13; found=730.14 (M+1)+.

reactant | (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.172 mmol, 515 μL, 103 mg | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)I)=O)C=C(C1)C(F)(F)F)(F)F | C20H13F9INO2
reactant | methyl 4′-chloro-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate | 0.259 mmol, 100 mg | ClC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)B1OC(C(O1)(C)C)(C)C | C21H24BClO4
reactant | potassium carbonate | 0.688 mmol, 2M, 344 μL | C([O-])([O-])=O.[K+].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 14 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-chloro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2Cl)C2=C(C=C(C=C2)C(=O)OC)C)=O)C=C(C1)C(F)(F)F)(F)F | C35H25ClF9NO4
